US04206156
Trifluoroacetic acid (4 ml) was added to 3-(N-hydroxyamino)propylphosphonic acid (1.55 g). After the mixture was stirred at ambient temperature for 15 minutes, to the mixture was added trifluoroacetic anhydride (2.52 g) with stirring under ice-cooling. After the stirring was continued at the same temperature for 1.5 hours, to the mixture was further added trifluoroacetic anhydride (2.73 g). The mixture was further stirred for an hour. Then, the resultant mixture was concentrated under reduced pressure to give a residue, which was dissolved in ethanol (10 ml). The solution was adjusted to pH 6-7 with aqueous ammonia, stirred for an hour under ice-cooling and concentrated under reduced pressure to give a residue, which was subjected to a column chromatography on cellulose (100 ml). This column was washed with isopropylalcohol (200 ml) and then the object compound was eluted with a mixture of isopropyl alcohol and water (9:1 ) (200 ml). The eluate was concentrated under reduced pressure to give a residue, which was pulverized with a mixture of ethanol and water to give powdery monoammonium salt of 3-(N-hydroxy-N-trifluoroacetylamino)propylphosphonic acid (0.2 g).

reactant | Trifluoroacetic acid | 4 ml | FC(C(=O)O)(F)F | C2HF3O2
reactant | 3-(N-hydroxyamino)propylphosphonic acid | 1.55 g | ONCCCP(O)(O)=O | C3H10NO4P
reactant | trifluoroacetic anhydride | 2.52 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | trifluoroacetic anhydride | 2.73 g | FC(C(=O)OC(C(F)(F)F)=O)(F)F | C4F6O3
reactant | ammonia | N | H3N
solvent | ethanol | 10 ml | C(C)O | C2H6O
solvent | water | O | H2O
product | 3-(N-hydroxy-N-trifluoroacetylamino)propylphosphonic acid | 0.2 g | ON(C(C(F)(F)F)=O)CCCP(O)(O)=O | C5H9F3NO5P
